US05929072
3-{6-Fluoro-indol-3-yl}-pyrrolidine (500 mg, 2.45 mmol), potassium carbonate (1.04 g, 9.8 mmol), and 1-(2-chloroethyl)-3,4-dihydro-3-(1-methylethyl)-1H-2,1,3-benzothiadiazine-2,2-dioxide (708 mg, 2.45 mmol) were refluxed in water (15 ml) under nitrogen overnight. The solid was dissolved in ethyl acetate(2×100 ml) and washed with brine, dried, filtered and evaporated in vacuo to afford a brown oil. Column chromatography eluting with ethyl acetate gave a yellow solid, 3,4-dihydro-1-{2-[3-(6-fluoroindol-3-yl)-pyrrolidinyl]-1-ethyl}-3-(1-methylethyl)-1H-2,1,3-benzothiadiazine-2,2-dioxide, m.p.50.8-54.4° C.

reactant | 3-{6-Fluoro-indol-3-yl}-pyrrolidine | 2.45 mmol, 500 mg | FC1=CC=C2C(=CNC2=C1)C1CNCC1 | C12H13FN2
reactant | potassium carbonate | 9.8 mmol, 1.04 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(2-chloroethyl)-3,4-dihydro-3-(1-methylethyl)-1H-2,1,3-benzothiadiazine-2,2-dioxide | 2.45 mmol, 708 mg | ClCCN1S(N(CC2=C1C=CC=C2)C(C)C)(=O)=O | C12H17ClN2O2S
solvent | water | 15 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 3,4-dihydro-1-{2-[3-(6-fluoroindol-3-yl)-pyrrolidinyl]-1-ethyl}-3-(1-methylethyl)-1H-2,1,3-benzothiadiazine-2,2-dioxide | FC1=CC=C2C(=CNC2=C1)C1CN(CC1)CCN1S(N(CC2=C1C=CC=C2)C(C)C)(=O)=O | C24H29FN4O2S
